US07541372B2
1-{3-Methoxy-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenyl}-piperazine
As described for example 26, 2-(4-fluoro-2-methoxy-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole (200 mg, 0.57 mmol) was converted using piperazine instead of thiomorpholine to the title compound (SiO2, dichloromethane:(dichloromethane: methanol:ammonia=70:27:3)=92:2 to 50:50, 40 mg, 17%) which was obtained as an off-white solid. MS: m/e=418.3 [M+H]+.

reactant | 2-(4-fluoro-2-methoxy-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole | 0.57 mmol, 200 mg | FC1=CC(=C(C=C1)C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1)OC | C19H14FN3O3
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 1-{3-Methoxy-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenyl}-piperazine | 40 mg, 17% | COC=1C=C(C=CC1C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1)N1CCNCC1 | C23H23N5O3
